US09259426B2
Synthesis of 4-(N-cyclopentylamino)-6-(4-fluorophenyl)-quinazoline
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-quinazoline and cyclopentylamine in 78%, using the procedure described example 37 and was characterized by its mass spectrum as follows: MS (m/z): 308 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 4-(N-cyclopentylamino)-6-(4-fluorophenyl)-quinazoline | C1(CCCC1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C19H18FN3
